US06340548B1
To a 1-liter, 3-neck round bottom flask equipped with mechanical stirrer, thermometer, and addition funnel, was added 271 ml DMF (3.5 mol). The contents were cooled in a salt/ice bath. When the temperature inside the flask reached 0° C., 326 ml of POCl3 (3.5 mol) was slowly added. During the addition of POCl3, the temperature inside the flask was not allowed to rise above 5° C. After the addition of POCl3 was completed, the reaction mixture was allowed to warm to room temperature. 126 g of N-heptylcarbazole was then added and the flask was heated to 90° C. for 24 hr. using a heating mantle. The reaction mixture was cooled to room temperature and the solution was added slowly to a 4.5 liter beaker containing a solution of 820 g sodium acetate dissolved in 2 liters of water. The beaker was cooled in an ice bath and stirred for 3 hr. The brownish solid obtained was filtered and washed repeatedly with water, followed by a small amount of ethanol (50 ml). The resulting product was recrystallized once from toluene using activated charcoal and dried under vacuum in an oven heated at 70° C. for 6 hr to obtain 80 g (51% yield) of N-heptyl-3,6-diformyl-carbazole. 1H-NMR and IR spectra confirmed the presence of N-heptyl-3,6-diformyl-carbazole.

reactant | DMF | 3.5 mol, 271 ml | CN(C)C=O | C3H7NO
reactant | POCl3 | 3.5 mol, 326 ml | O=P(Cl)(Cl)Cl | Cl3OP
reactant | N-heptylcarbazole | 126 g | C(CCCCCC)N1C2=CC=CC=C2C=2C=CC=CC12 | C19H23N
reactant | sodium acetate | 820 g | C(C)(=O)[O-].[Na+]
solvent | water | 2 liters | O | H2O
product | N-heptyl-3,6-diformyl-carbazole | 80 g, 51% yield | C(CCCCCC)N1C2=CC=C(C=C2C=2C=C(C=CC12)C=O)C=O | C21H23NO2
